US07977362B2
A mixture of N-(4-cyanobenzyl)-N-(7-hydroxybicyclo[2.2.1]heptan-2-yl)-4-chlorobenzenesulfonamide (380 mg, 0.91 mmol) and hydroxylamine (500 up was refluxed in 20 mL ethanol for 2 h. The reaction was concentrated and dried under high vacuum. A portion of the crude amide oxime (25 mg) which was obtained was refluxed in triethylorthoformate (2 mL) for 5 h. The reaction was diluted into 20 mL ethyl acetate, washed with brine, and purified by flash chromatography on 4 g silica gel with 0 to 30% ethyl acetate in hexane to yield N-(4-(1,2,4-oxadiazol-3-yl)benzyl)-N-(7-hydroxybicyclo[2.2.1]heptan-2-yl)-4-chlorobenzenesulfonamide (11 mg, 44%). 1H NMR (400 MHz, CDCl3) δ ppm 8.73 (1H, s), 8.00-8.08 (2H, m), 7.68-7.79 (2H, m), 7.40-7.49 (4H, m), 4.83 (2H, q, J=17.54 Hz), 4.02-4.11 (1H, m), 3.83 (1H, s), 1.88 (1H, br. s.), 1.58-1.68 (2H, m), 1.43-1.55 (3H, m), 1.06-1.16 (2H, m). LC/MS R.T.=2.35 min; [M+H]+=460.13.

reactant | N-(4-cyanobenzyl)-N-(7-hydroxybicyclo[2.2.1]heptan-2-yl)-4-chlorobenzenesulfonamide | 0.91 mmol, 380 mg | C(#N)C1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)Cl)C2C3CCC(C2)C3O)C=C1 | C21H21ClN2O3S
reactant | hydroxylamine | NO | H3NO
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | triethylorthoformate | 2 mL | C(C)OC(OCC)OCC | C7H16O3
product | N-(4-(1,2,4-oxadiazol-3-yl)benzyl)-N-(7-hydroxybicyclo[2.2.1]heptan-2-yl)-4-chlorobenzenesulfonamide | 11 mg, 44% | O1N=C(N=C1)C1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)Cl)C2C3CCC(C2)C3O)C=C1 | C22H22ClN3O4S
